US07427613B2
(3-Chlorobenzyl)cyclopropylamine
Synthesized according to typical procedure J from 3-chlorobenzaldehyde and cyclopropylamine.

reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (3-Chlorobenzyl)cyclopropylamine | ClC=1C=C(CNC2CC2)C=CC1 | C10H12ClN
